US07217701B2
bis(2-bromobenzyl)ether
Solution of 2-bromobenzylalcohol (3.8 g) in THF (10 ml) was delivered by drops over 15 minutes to suspension of sodium hydride (0.88 g; 60% in oil) in THF (30 ml) cooled to −0° C. in argon atmosphere, and the reaction mixture was further stirred for 20 minutes. Solution of 2-bromobenzyl bromide (6.0 g) in THF (10 ml) was added thereto and the reaction solution was stirred for one hour at room temperature. The reaction mixture was poured to water and neutralized with 1N hydrochloric acid and extracted with hexane. The organic layer was dried with anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography (hexane:ethyl acetate=1:0 to 100:1 to 10:1) to obtain the title compound (5.77 g) having the following physical data.

reactant | 2-bromobenzylalcohol | 3.8 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | 2-bromobenzyl bromide | 6.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | bis(2-bromobenzyl)ether | 5.77 g | BrC1=C(COCC2=C(C=CC=C2)Br)C=CC=C1 | C14H12Br2O
